US04358532
(b) Synthesis of 1-acetoxy-5-acetaminonaphthalene-2-sulfonyl chloride
100 g of 1-acetoxy-5-acetaminonaphthalene-2-sulfonic acid was added to 500 ml of sulfolane, and 200 ml of phosphorus oxychloride was dropwise added thereto at 40° C. while stirring. After continuing stirring for about 1 hour, the reaction mixture was poured into 2 liters of ice-water, and the precipitated crystals were collected by filtration, washed with water until the filtrate did not show acidity, and air-dried as such for 24 hours to obtain 70 g (81% yield) of product.

reactant | 1-acetoxy-5-acetaminonaphthalene-2-sulfonic acid | 100 g | C(C)(=O)OC1=C(C=CC2=C(C=CC=C12)NC(=O)C)S(=O)(=O)O | C14H13NO6S
reactant | sulfolane | 500 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | phosphorus oxychloride | 200 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-acetoxy-5-acetaminonaphthalene-2-sulfonyl chloride | 70 g, 81% yield | C(C)(=O)OC1=C(C=CC2=C(C=CC=C12)NC(=O)C)S(=O)(=O)Cl | C14H12ClNO5S
